US04478837
5,6,7,8-Tetrahydro-8-isopropylidenehydrazino-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester
A suspension of 23.7 g of 3-hydrazino-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester in 100 cc of acetone is heated at reflux for 4 hours while stirring. The title compound has a M.P. of 171°-174° (decomp., from methanol).

reactant | 3-hydrazino-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | 23.7 g | C(C)OC(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C10H15N5O2
solvent | acetone | 100 cc | CC(=O)C | C3H6O
product | 5,6,7,8-Tetrahydro-8-isopropylidenehydrazino-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC=C2)C(C1)NN=C(C)C | C13H19N5O2
